US07199257B1
N-[4-cyano-3-trifluoromethyl-phenyl]-3-[4-fluorophenyl-thio]-2-hydroxy-2-methyl-propionamide
Under nitrogen, to a solution of 25.6 g (0.20 mol) of 4-fluorthiophenol in 500 ml of isopropanol 8.4 g (0.20 mol) of sodium hydroxide in 400 ml of water was added. The mixture was stirred at 25° C. for 2 h, then 58.6 g (16 mmol) of N-[4-cyano-3-trifluoromethyl-phenyl]-2-hydroxy-3-(methanesulfonyloxy)-2-methyl-propionamide in 500 ml of isopropanol was added. Then the mixture was stirred at 25° C. for 5 h, then the pH was adjusted to neutral with concentrated hydrochloric acid and treated with charcoal at reflux temperature. Most of the isopropanol was evaporated in vacuum and 250 ml of 2% aqueous sodium hydroxide solution was added to the residue under vigorous stirring, then the crystalline mixture was left for 1 h, then filtered and washed with water. The dried crystals were recrystallized from a 1:4 mixture of ethyl acetate/petroleum ether, which has a boiling range of 40–70° C.

reactant | 4-fluorthiophenol | 0.20 mol, 25.6 g | FC1=CC=C(C=C1)S | C6H5FS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N-[4-cyano-3-trifluoromethyl-phenyl]-2-hydroxy-3-(methanesulfonyloxy)-2-methyl-propionamide | 16 mmol, 58.6 g | C(#N)C1=C(C=C(C=C1)NC(C(COS(=O)(=O)C)(C)O)=O)C(F)(F)F | C13H13F3N2O5S
reactant | hydrochloric acid | Cl | ClH
reactant | charcoal | C | CH4
solvent | water | 400 ml | O | H2O
solvent | isopropanol | 500 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 0.20 mol, 500 ml, 8.4 g | C(C)(C)O | C3H8O
product | N-[4-cyano-3-trifluoromethyl-phenyl]-3-[4-fluorophenyl-thio]-2-hydroxy-2-methyl-propionamide | C(#N)C1=C(C=C(C=C1)NC(C(CSC1=CC=C(C=C1)F)(C)O)=O)C(F)(F)F | C18H14F4N2O2S
